US08232294B2
Step 7) 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate
To a mixture of N-(3-fluoro-4-(7-(2-(1-hydroxycyclopropyl)ethoxy)quinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (218 mg, 0.384 mmol), N-Boc-glycine (133.4 mg, 0.768 mmol, Alfa), and DMAP (7.03 mg, 0.058 mmol, Aladdin) in 10 mL of dichloromethane was added DCC solid (323.4 mg, 1.54 mmol, Aldrich) slowly at 0° C. The reaction was then warmed up to rt and continued to stir at rt overnight. The reaction mixture was filtered and the solid was washed with dichloromethane (10 mL×2). The combined organic phases were washed with 20 mL of saturated NaNCO3 solution followed by 20 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on a silica gel column (PE: EA=1:6) to give the desired compound as a yellow solid (190 mg, 70%).

reactant | N-(3-fluoro-4-(7-(2-(1-hydroxycyclopropyl)ethoxy)quinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.384 mmol, 218 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OCCC1(CC1)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C32H29FN4O5
reactant | N-Boc-glycine | 0.768 mmol, 133.4 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | DCC | 1.54 mmol, 323.4 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.058 mmol, 7.03 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate | 190 mg, 70% | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)CCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C39H40FN5O8
